US06713515B2
Ethyl 4-[1-(5,6,7,8-tetrahydro-3,5,5-trimethyl-8-oxo-2-naphthalenyl)-ethenyl]benzoate
A solution of ethyl 4-[1-(5,6,7,8-tetrahydro-3,5,5-trimethyl-8-oxo-2naphthalenyl)-2-trimethylsilyl-ethenyl]benzoate (12.0 g, 27.6 mmol) in dichloromethane (900 mL) was treated with trifluoroacetic acid (100 mL) at 0° C. The mixture was stirred for 18 hours and allowed to reach room temperature. The mixture was diluted with toluene (˜100 mL) and concentrated. The residue was purified by silica gel chromatography (8×15 cm, 0 to 5% ethyl acetate/toluene) to afford the title material as a yellowish solid which was triturated in hexane (9.7 g, 97%). An analytical sample was recrystallized in hexane.

reactant | ethyl 4-[1-(5,6,7,8-tetrahydro-3,5,5-trimethyl-8-oxo-2naphthalenyl)-2-trimethylsilyl-ethenyl]benzoate | 27.6 mmol, 12.0 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)=O)C(=C[Si](C)(C)C)C1=CC=C(C(=O)OCC)C=C1 | C27H34O3Si
reactant | trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 900 mL | ClCCl | CH2Cl2
solvent | toluene | ˜100 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-[1-(5,6,7,8-tetrahydro-3,5,5-trimethyl-8-oxo-2-naphthalenyl)-ethenyl]benzoate | CC=1C(=CC=2C(CCC(C2C1)(C)C)=O)C(=C)C1=CC=C(C(=O)OCC)C=C1 | C24H26O3
